US08431695B2
Preparation of 7-{3-[(Azetidin-3-ylmethyl)-amino]-propyl}-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
To a suspension of 3-({3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-propylamino}-methyl)-azetidine-1-carboxylic acid tert-butyl ester (80 mg, 0.14 mmol) in anhydrous DCM (2.8 mL) was added trifluoroacetic acid (1.4 mL). The mixture was stirred at rt under N2 for 3 days. The reaction mixture was concentrated and the crude was dissolved in EtOAc. The organic layer was washed with aqueous, saturated NaHCO3 solution, water and brine, dried (Na2SO4), filtered and concentrated in vacuo. The crude was purified via preparative HPLC [gradient 15 to 90% ACN/H2O+0.1% TFA]. The product containing fractions were collected, and the TFA was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The filtrate was concentrated and the residue was crystallized from DCM-ether to provide the title compound (6 mg, 9%) as a white solid. 1H NMR (300 MHz, MeOD). 8.39 (s, 1H), 7.85 to 7.82 (m, 2H), 7.65 (s, 1H), 7.36 to 7.33 (m, 5H), 7.24 (d, 1H), 6.56 (s, 1H), 5.67 (s, 2H), 4.02 (t, 2H), 3.78 to 3.75 (m, 2H), 3.05 (t, 3H), 2.87 (d, 2H), 2.70 (t, 2H), 2.02 to 1.98 (m, 2H); ES-MS m/z 467.3 [M+H]+, RT (min) 2.82.

reactant | 3-({3-[4-amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-propylamino}-methyl)-azetidine-1-carboxylic acid tert-butyl ester | 0.14 mmol, 80 mg | C(C)(C)(C)OC(=O)N1CC(C1)CNCCCC1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C32H38N8O2
reactant | trifluoroacetic acid | 1.4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2.8 mL | C(Cl)Cl | CH2Cl2
product | 7-{3-[(Azetidin-3-ylmethyl)-amino]-propyl}-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 6 mg, 9% | N1CC(C1)CNCCCC1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H30N8
